US09353108B2
C) Methyl 4-(benzyloxy)-5-cyclopropyl-2-ethoxybenzoate
A mixture of methyl 4-(benzyloxy)-5-bromo-2-ethoxybenzoate (9.80 g), cyclopropylboronic acid (5.76 g), dicyclohexyl(2′,6′-dimethoxybiphenyl-2-yl)phosphine (1.65 g), a 2 M aqueous sodium carbonate solution (40.2 mL), tris(dibenzylideneacetone)dipalladium(0) (1.72 g), and toluene (100 mL) was stirred overnight at 100° C. in an argon atmosphere. The reaction mixture was filtered, and then, the filtrate was poured to water, followed by extraction with ethyl acetate. The obtained organic layer was dried over anhydrous magnesium sulfate, and then, the solvent was distilled off under reduced pressure. The obtained residue was purified by silica gel column chromatography (hexane/ethyl acetate) to obtain the title compound (8.76 g).

reactant | methyl 4-(benzyloxy)-5-bromo-2-ethoxybenzoate | 9.80 g | C(C1=CC=CC=C1)OC1=CC(=C(C(=O)OC)C=C1Br)OCC | C17H17BrO4
reactant | cyclopropylboronic acid | 5.76 g | C1(CC1)B(O)O | C3H7BO2
reactant | dicyclohexyl(2′,6′-dimethoxybiphenyl-2-yl)phosphine | 1.65 g | C1(CCCCC1)P(C1=C(C=CC=C1)C1=C(C=CC=C1OC)OC)C1CCCCC1 | C26H35O2P
reactant | sodium carbonate | 2 M, 40.2 mL | C([O-])([O-])=O.[Na+].[Na+]
catalyst | tris(dibenzylideneacetone)dipalladium(0) | 1.72 g | C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.[Pd].[Pd]
solvent | toluene | 100 mL | C1(=CC=CC=C1)C | C7H8
product | Methyl 4-(benzyloxy)-5-cyclopropyl-2-ethoxybenzoate | 8.76 g | C(C1=CC=CC=C1)OC1=CC(=C(C(=O)OC)C=C1C1CC1)OCC | C20H22O4
